US05306809
β-hydroxy, aspartic acid derviatives 12b-d were prepared from copperglycinate and 2-oxobutanoic acid, 2-oxopentanoic acid and 4-methyl,2-oxopentanoic acid, respectively, according to the procedure described by L. Benoiton et al. (J. Am. Chem. Soc, 81, 1726-1729, 1959). β-Hydroxyaspartic acid was obtained from Sigma Chem. Comp.

reactant | 2-oxobutanoic acid | O=C(C(=O)O)CC | C4H6O3
reactant | 2-oxopentanoic acid | O=C(C(=O)O)CCC | C5H8O3
reactant | 4-methyl,2-oxopentanoic acid | CC(CC(C(=O)O)=O)C | C6H10O3
reactant | β-Hydroxyaspartic acid | OC([C@H](N)C(=O)O)C(=O)O | C4H7NO5
product | aspartic acid | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
